US09403835B2
Step 5: tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate
Hydrazine hydrochloride (4.95 g, 72.4 mmol) was added to a solution of tert-butyl 4-cyano-2,2-dimethyl-3-oxopyrrolidine-1-carboxylate (11.5 g, 48.2 mmol) in EtOH (300 mL) and the reaction mixture was stirred at 85° C. for 18 hours then concentrated in vacuo. The residue was taken up in EA (200 mL), washed with sat. aq. NaHCO3, dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (3% MeOH in EA) afforded the title compound (5.5 g, 46%) as an off-white solid. 1H NMR (DMSO-d6) δ 11.12 (s, 1H), 5.05 (s, 2H), 4.11-4.07 (m, 2H), 1.50-1.48 (m, 6H), 1.44-1.41 (m, 9H).

reactant | Hydrazine hydrochloride | 72.4 mmol, 4.95 g | Cl.NN
reactant | tert-butyl 4-cyano-2,2-dimethyl-3-oxopyrrolidine-1-carboxylate | 48.2 mmol, 11.5 g | C(#N)C1C(C(N(C1)C(=O)OC(C)(C)C)(C)C)=O | C12H18N2O3
solvent | EtOH | 300 mL | CCO | C2H6O
product | tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | 5.5 g, 46% | NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C12H20N4O2
